US09382188B2
H) ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylpropanoate
Under an argon atmosphere, to a solution of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (844 mg) in toluene (50 mL) were added copper (I) chloride (134 mg) and sodium tert-butoxide (130 mg), and the mixture was stirred at room temperature for 5 min. To the obtained yellow suspension were successively added ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylacrylate (6.60 g), polymethylhydrosiloxane (8.10 mL) and tert-butyl alcohol (2.56 mL) at room temperature, and the mixture was directly stirred for 7 hr. To the reaction mixture was added methanol, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.70 g) as a pale-yellow oil.

reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 844 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 130 mg | CC(C)([O-])C.[Na+]
reactant | ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylacrylate | 6.60 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C(=CC(=O)OCC)C1CC1 | C29H34N2O3Si
reactant | tert-butyl alcohol | 2.56 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) chloride | 134 mg | [Cu]Cl
solvent | methanol | CO | CH4O
product | ethyl 3-(6-(((tert-butyldiphenylsilyl)oxy)methyl)pyrimidin-4-yl)-3-cyclopropylpropanoate | 6.70 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=NC=N1)C(CC(=O)OCC)C1CC1 | C29H36N2O3Si
